US05602277
A sample of 2-(methanesulfonylamino)-5-(methoxycarbonyl)benzaldehyde trimethylene mercaptal (7.66 g, 0.022 mol) dissolved in N,N-dimethylformamide (4.35 mL) and acetone (39.13 mL) was added over a 5-min period through a dropping funnel to a solution of copper (II) oxide (2.09 g, 0.026 mol), copper (II) chloride (7.0 g, 0.055 mol) in acetone (174.0 mL) and heated at reflux. After 2 h at reflux, thin-layer chromatography analysis (SiO2, EtOAc:hexane 1:1) showed disappearance of the starting material and the appearance of a new slightly higher Rf spot which gave a positive result when sprayed with 2,4-DNP. Upon cooling, the reaction was filtered through Celite and the cake was washed with 10% ethanol in dichloromethane. Water (125 mL) and dichloromethane (150 mL) were added to the filtrate. The layers were partitioned and the water layer extracted 2×100 mL dichloromethane. The combined organic layers were washed twice with water (100 mL), dried (Na2SO4), and filtered. Concentration of the filtrate gave a beige solid which was dried in vacuo to give 4.48 g (79%) of 2-(methanesulfonylamino)-5-(methoxycarbonyl)benzaldehyde, mp 161°-163° C. (ethanol).

reactant | 2-(methanesulfonylamino)-5-(methoxycarbonyl)benzaldehyde trimethylene mercaptal | 0.022 mol, 7.66 g | C1CCSC(C2=C(C=CC(=C2)C(=O)OC)NS(=O)(=O)C)S1 | C13H17NO4S3
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
reactant | 2,4-DNP | C1=CC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])O | C6H4N2O5
solvent | N,N-dimethylformamide | 4.35 mL | CN(C=O)C | C3H7NO
solvent | acetone | 174.0 mL | CC(=O)C | C3H6O
catalyst | copper (II) oxide | 0.026 mol, 2.09 g | [Cu]=O
catalyst | copper (II) chloride | 0.055 mol, 7.0 g | [Cu](Cl)Cl
solvent | acetone | 39.13 mL | CC(=O)C | C3H6O
product | 2-(methanesulfonylamino)-5-(methoxycarbonyl)benzaldehyde | 4.48 g, 79% | CS(=O)(=O)NC1=C(C=O)C=C(C=C1)C(=O)OC | C10H11NO5S
